US09079853B2
5-chloro-1-ethyl-3-hydroxy-3-(pyridin-2-ylmethyl)indolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-chloro-1-ethylindoline-2,3-dione and 2-methylpyridine (purchased from Fisher Scientific). 1H-NMR δ 8.60 (d, 1H), 7.65 (dd, 1H), 7.27 (m, 3H), 7.09 (d, 1H), 6.75 (m, 2H), 3.72 (m, 2H), 3.35 (d, 1H), 3.09 (d, 1H), 1.21 (t, 3H).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-chloro-1-ethylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC)=O)=O | C10H8ClNO2
reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
product | 5-chloro-1-ethyl-3-hydroxy-3-(pyridin-2-ylmethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CC)=O)(CC1=NC=CC=C1)O | C16H15ClN2O2
